US07696223B2
b) 1-(3-Methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 6(a) from 2,3-dibromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, ammonium formate and Pd/C. The title compound, ESI MS (m/z): 327 (M+H)+.

reactant | 2,3-dibromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC(=CC=C2)OC)O | C18H16Br2N2O4
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | 1-(3-Methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CC2=CC(=CC=C2)OC)O | C18H18N2O4
